US06207665B1
To a solution of (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)-N-(((1S)-1-(t-butoxy-carbonylamino)ethyl)carbonyl)amino)propanoic acid methyl ester (2.0 g, 4 mmol) in CH2Cl2 (25 mL) was cooled to 0° C. and trifluoroacetic acid (25 mL) was added dropwise over 2 hours. At the end of the addition, the ice bath was removed and the mixture was stirred at ambient temperature. After 2 hours, the mixture was concentrated in vacuo. The residual yellow oil was taken up in ethyl acetate and washed with 1 N aqueous NaHCO3 solution. The organic layer was separated then dried over MgSO4, filtered, and concentrated in vacuo to afford 1.2 g (83% yield) of (2R,5S)-1-(4-fluorobenzyl)-2-(benzyloxy)methyl-5-methylpiperazine-3,6-dione, a compound of formula (R), as a clear oil; NMR (CDCl3) 7.4-7.2 (m, 7), 7.0 (dd, 2), 5.0 (d, 1), 4.5-4.0 (m, 4), 3.9-3.5 (m, 4), 1.5 (d, 3) ppm, MS (LSIMS) 356.

reactant | (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)-N-(((1S)-1-(t-butoxy-carbonylamino)ethyl)carbonyl)amino)propanoic acid methyl ester | 4 mmol, 2.0 g | COC([C@@H](COCC1=CC=CC=C1)N(C(=O)[C@H](C)NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)F)=O | C26H33FN2O6
reactant | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (2R,5S)-1-(4-fluorobenzyl)-2-(benzyloxy)methyl-5-methylpiperazine-3,6-dione | 1.2 g, 83% yield | FC1=CC=C(CN2[C@@H](C(N[C@H](C2=O)C)=O)COCC2=CC=CC=C2)C=C1 | C20H21FN2O3
